US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(4-phenylbutanoyl)thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 4-phenylbutanoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 4-phenylbutanoyl isothiocyanate was prepared using the resultant 4-phenylbutanoyl chloride as a starting compound according to the description of the literature. 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. A solution of 4-phenylbutanoyl isothiocyanate in ethanol (1 ml) was then added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (37 mg, yield 45%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-phenylbutanoic acid | 80 mg | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | 4-phenylbutanoyl chloride | C1(=CC=CC=C1)CCCC(=O)Cl | C10H11ClO
reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C16H15N3O3
reactant | 4-phenylbutanoyl isothiocyanate | C1(=CC=CC=C1)CCCC(=O)N=C=S | C11H11NOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]phenyl}-N′-(4-phenylbutanoyl)thiourea | 37 mg, yield 45% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=S)NC(CCCC1=CC=CC=C1)=O | C27H26N4O4S
